US05576343
Preparation of Ethyl 2-[4-[((2R)-1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]phenyl]-3-(5-cyanobenzo[b]thien-2-yl)-2-ethoxycarbonylpropionate
4.1 g of ethyl 2-[4-[((2R)-1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]phenyl]-2-ethoxycarbonylacetate was dissolved in 100 ml of tetrahydrofuran. At room temperature, the thus prepared solution was mixed with 0.38 g of 60% sodium hydride and stirred for 30 minutes. With stirring at room temperature, to the resulting reaction solution was added dropwise 10 ml of a tetrahydrofuran solution containing 2.1 g of 2-bromomethylbenzo[b]thiophene-5-carbonitrile. After concentrating the reaction solution to dryness, the resulting residue was purified by subjecting it to silica gel column chromatography using a toluene/chloroform mixture as an elution solvent, thereby obtaining 4.34 g of the title compound in an oily form.

reactant | ethyl 2-[4-[((2R)-1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]phenyl]-2-ethoxycarbonylacetate | 4.1 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C23H33NO7
reactant | sodium hydride | 0.38 g | [H-].[Na+]
reactant | 2-bromomethylbenzo[b]thiophene-5-carbonitrile | 2.1 g | BrCC1=CC2=C(S1)C=CC(=C2)C#N | C10H6BrNS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl 2-[4-[((2R)-1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxy]phenyl]-3-(5-cyanobenzo[b]thien-2-yl)-2-ethoxycarbonylpropionate | 4.34 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)C(C(=O)OCC)(CC1=CC2=C(S1)C=CC(=C2)C#N)C(=O)OCC | C33H38N2O7S
